US07851469B2
Morpholin-4-yl-{6-[4-(3-phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-pyridin-3-yl}-methanone
As described for Example 18, 6-[4-(3-phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-nicotinic acid methyl ester (90 mg, 0.22 mmol), was converted, using morpholine instead of cyclopropanemethylamine, to the title compound (28 mg, 28%) which was obtained as a yellow oil. MS: m/e=470.1 [M+H]+.

reactant | 6-[4-(3-phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-nicotinic acid methyl ester | 0.22 mmol, 90 mg | COC(C1=CN=C(C=C1)N1C=NC(=C1)C=1C(=NOC1C(F)(F)F)C1=CC=CC=C1)=O | C20H13F3N4O3
reactant | morpholine | N1CCOCC1 | C4H9NO
product | Morpholin-4-yl-{6-[4-(3-phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-pyridin-3-yl}-methanone | 28 mg, 28% | N1(CCOCC1)C(=O)C=1C=NC(=CC1)N1C=NC(=C1)C=1C(=NOC1C(F)(F)F)C1=CC=CC=C1 | C23H18F3N5O3
